US04638000
In 50 ml of ethanol is dissolved 2.2 g of sodium, and 30 g of ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)valerate and 14 g of diethyl oxalate are added to the solution, followed by evaporation under reduced pressure at 60° C. for 1 hour and at 60° to 70° C. for 30 minutes to remove a low boiling substance. After cooling, 500 ml of water is added to the resulting brown viscous material, and the mixture is made acidic with hydrochloric acid and extracted with 300 ml of ethyl acetate. The extract is dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Dimethylsulfoxide (150 ml), 15 ml of water and 5 g of lithium chloride are added to the resulting oily material, followed by stirring at 150° to 155° C. for 35 minutes. After cooling, 500 ml of water is added to the reaction, and the mixture is extracted with 300 ml of ethyl acetate. The extract is dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 26 g of ethyl 6-(1-benzyloxycarbonyl -4-piperidyl)-2-oxohexanoate as an oily material.

reactant | sodium | 2.2 g | [Na] | Na
reactant | ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)valerate | 30 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(=O)OCC | C20H29NO4
reactant | diethyl oxalate | 14 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 6-(1-benzyloxycarbonyl -4-piperidyl)-2-oxohexanoate | 26 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)=O | C21H29NO5
